US09216968B2
Sodium hydroxide powder (6.2 mg) was added to a solution of N-(3-chloro-2-methylphenyl)-2-[(3-hydroxy-2,2-dimethylpropyl)amino]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide (80 mg) in DMF (2 mL), the solution was stirred at room temperature for 30 minutes, methyl iodide (8.7 μL) was added, and it was stirred for 17 hours. The reaction mixture was diluted with ethyl acetate, washed with brine, and concentrated under reduced pressure. The residue was purified on column chromatography to obtain N-(3-chloro-2-methylphenyl)-2-[(3-hydroxy-2,2-dimethylpropyl)amino]-1-methyl-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide (20 mg) as white powder. This was suspended in MeOH, 2N hydrogen chloride/EtOH (1 Eq) was added, it was stirred to obtain a solution, and the solvent was removed under reduced pressure. The residue was washed with diethyl ether, and the precipitate was collected by filtration and dried to obtain the titled compound (15 mg) as white powder.

reactant | Sodium hydroxide | 6.2 mg | [OH-].[Na+]
reactant | N-(3-chloro-2-methylphenyl)-2-[(3-hydroxy-2,2-dimethylpropyl)amino]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide | 80 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)NCC(CO)(C)C)NC(=O)C2=C(C=CC=C2)C(F)(F)F)C | C28H27ClF3N5O3
reactant | methyl iodide | 8.7 μL | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-chloro-2-methylphenyl)-2-[(3-hydroxy-2,2-dimethylpropyl)amino]-1-methyl-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide | 20 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2N(C(=NC21)NCC(CO)(C)C)C)NC(=O)C2=C(C=CC=C2)C(F)(F)F)C | C29H29ClF3N5O3
